US06245761B1
Preparation of 3-{2-[(4-chlorophenoxy)methyl]-1-methyl-1H-indol-3-yl}propanoic acid
Under a nitrogen atmosphere in a round bottom flask 2-[(4-chlorophenoxy)methyl]-1-methyl-3-[2-(methoxycarbonyl)ethyl]-1H-indole (0.275 g, 0.771 mmol) was dissolved in 8 ml of dry tetrahydrofuran. To this solution was added 4.0 ml of a 2.0 N lithium hydroxide solution. The reaction mixture was stirred at room temperature overnight. The progress of the reaction was monitored by thin layer chromatography.

reactant | 2-[(4-chlorophenoxy)methyl]-1-methyl-3-[2-(methoxycarbonyl)ethyl]-1H-indole | 0.771 mmol, 0.275 g | ClC1=CC=C(OCC=2N(C3=CC=CC=C3C2CCC(=O)OC)C)C=C1 | C20H20ClNO3
reactant | lithium hydroxide | 2.0 N | [OH-].[Li+]
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 3-{2-[(4-chlorophenoxy)methyl]-1-methyl-1H-indol-3-yl}propanoic acid | ClC1=CC=C(OCC=2N(C3=CC=CC=C3C2CCC(=O)O)C)C=C1 | C19H18ClNO3
